US05994368
To a solution of 4-chloro-2,3-dimethyl-8-methoxyquinoline (2.5 g) in dichloromethane (5 ml) was added boron tribromide (22.6 ml) under ice-cooling, and the mixture was stirred for 3 hours. The reaction mixture was extracted with 10% solution of methanol in chloroform, and the organic layer was dried over magnesium sulfate and concentrated. The residue was dissolved in acetonitrile under heating, and the mixture was allowed to cool. The resulting precipitates were collected by filtration to give 4-chloro-2,3-dimethyl-8-hydroxyquinoline (1.50 g).

reactant | 4-chloro-2,3-dimethyl-8-methoxyquinoline | 2.5 g | ClC1=C(C(=NC2=C(C=CC=C12)OC)C)C | C12H12ClNO
reactant | boron tribromide | 22.6 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-chloro-2,3-dimethyl-8-hydroxyquinoline | 1.50 g | ClC1=C(C(=NC2=C(C=CC=C12)O)C)C | C11H10ClNO
